US20010000513A1
Step (a) Preparation of 4-(2′-Fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester
In a manner similar to Example 2, Step (a), 2-fluoro-biphenyl (6.284 g, 0.0365 mol) was allowed to react with 3-carbomethoxypropionyl chloride (4.95 mL, 0.0402 mol) in the presence of anhydrous aluminum chloride (10.7 g, 0.0802 mol) in dichloromethane to give, after chromatography on silica gel (456 g, 230-400 mesh), eluting with chloroform (15×450 mL), 7.36 g of 4-(2′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester as a pale yellow solid; mp 75.5-77.5° C.

reactant | 2-fluoro-biphenyl | 0.0365 mol, 6.284 g | FC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9F
reactant | 3-carbomethoxypropionyl chloride | 0.0402 mol, 4.95 mL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | aluminum chloride | 0.0802 mol, 10.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2′-Fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | FC1=C(C=CC=C1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15FO3
